US07855211B2
e. 6-Bromo-4-fluoro-1-isopropyl-2-methyl-1H-benzoimidazole
Add potassium tert-butoxide (6.9 kg) in portions to a solution of N-(4-bromo-2,6-difluoro-phenyl)-N′-isopropyl-acetamidine (16.2 kg) in N-methyl formamide (76 kg) while maintaining the temperature at T<30° C. Heat the mixture at 70-75° C. until complete by HPLC. Cool to 20-30° C. and quench by adding into water (227 kg) then extract with MtBE (37×4 kg). Wash the combined organic phases with brine (49×2 kg) and concentrate to 25-30 L, add n-hexane (64 kg) and filter the slurry to give 11 kg of the title compound. MS (ES+): m/z=272 (M+H)+.

reactant | potassium tert-butoxide | 6.9 kg | CC(C)([O-])C.[K+]
reactant | N-(4-bromo-2,6-difluoro-phenyl)-N′-isopropyl-acetamidine | 16.2 kg | BrC1=CC(=C(C(=C1)F)NC(C)=NC(C)C)F | C11H13BrF2N2
solvent | N-methyl formamide | 76 kg | CNC=O | C2H5NO
product | 6-Bromo-4-fluoro-1-isopropyl-2-methyl-1H-benzoimidazole | 11 kg | BrC=1C=C(C2=C(N(C(=N2)C)C(C)C)C1)F | C11H12BrFN2
